US07498440B2
1-(2-{[(4-cyanophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (30 mg, 0.102 mmol) was added to a solution of 4-{[(2-bromoethyl)oxy]methyl}benzonitrile (34 mg, 0.143 mmol) in 2:3 CH3CN/CHCl3 (3 mL), and the reaction was heated at 60° C. for 96 h. The reaction was concentrated, and the crude product was washed with EtOAc (3×1 mL). The product was dried under high vacuum to give the title compound (40 mg, 74%). LC/MS ESI RT1.82 min M+ 453

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.102 mmol, 30 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-{[(2-bromoethyl)oxy]methyl}benzonitrile | 0.143 mmol, 34 mg | BrCCOCC1=CC=C(C#N)C=C1 | C10H10BrNO
solvent | CH3CN CHCl3 | 3 mL | CC#N.C(Cl)(Cl)Cl
product | 1-(2-{[(4-cyanophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 40 mg, 74% | [Br-].C(#N)C1=CC=C(C=C1)COCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C30H33N2O2.BrH/c31-23-25-11-13-26(14-12-25)24-34-22-21-32-18-15-29(16-19-32,17-20-32)30(33,27-7-3-1-4-8-27)28-9-5-2-6-10-28;/h1-14,33H,15-22,24H2;1H/q+1;/p-1
